US07288538B2
To a solution of mesitylenesulfonyl chloride (2.0 g, 9.05 mmol) in pyridine (30 mL) was added acetone oxime (0.67 g, 9.05 mmol), and the solution was stirred under N2 for 16 hours. It was poured into 500 ml of water and stirred for 1 hour. The precipitate was filtered and dried Acetone O-(2,4,6-trimethylphenylsulfonyl)oxime was obtained as white powder (57.6%) yield.

reactant | mesitylenesulfonyl chloride | 9.05 mmol, 2.0 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | acetone oxime | 9.05 mmol, 0.67 g | CC(C)=NO | C3H7NO
reactant | water | 500 ml | O | H2O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | Acetone O-(2,4,6-trimethylphenylsulfonyl)oxime | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)ON=C(C)C | C12H17NO3S
